### PR TITLE
feat(SendClaim): prove perfect completeness

### PR DESCRIPTION
**Pull request by XC0R**
Proves `SendClaim.completeness` — perfect completeness for the SendClaim component of the sumcheck oracle reduction chain. This was the last remaining `sorry` in the four-component completeness pipeline (CheckClaim → ReduceClaim → RandomQuery → SendClaim).

### What's proved

`SendClaim.oracleReduction` has perfect completeness: for any valid witness, the verifier accepts with probability 1 in the ideal oracle model.

### Technique

The proof peels through the layered monad stack (OptionT / StateT / OracleComp) using:

- **`simulateQ_map` / `simulateQ_bind` / `simulateQ_pure`** to push `simulateQ` through each prover and verifier bind
- **`Option.elimM_map`** to bridge `OptionT.run` across `simulateQ` boundaries
- **`StateT.run_map`** to convert `Functor.map` inside `StateT` to the underlying `ProbComp` level

The completeness event splits into two obligations: (1) the computation never returns `none` (failure), and (2) every output satisfies the relation. Both reduce to showing that `simulateQ` preserves the `some <$> _` structure at each layer, then closing the oracle equality via `Subsingleton.elim` and `Unique.uniq` on the unit-indexed oracle types.

### Context

Builds on the completeness chain from #444 (CheckClaim + ReduceClaim + RandomQuery) and the upstream `monadLift_liftM_OptionT` coherence lemma contributed in Verified-zkEVM/VCV-io#259.

### CODE REVIEW

File: ArkLib/ProofSystem/Component/SendClaim.lean [hunk 1]
```diff
@@ -107,9 +107,149 @@ it also holds in the ideal setting, etc.
...
+    -- Bridge: StateT.run_map converts to ProbComp level map
+    rw [StateT.run_map] at hy
+    simp only [support_map, Set.mem_image] at hy
+    obtain ⟨⟨val, s₀⟩, hval, heq⟩ := hy
+    obtain ⟨rfl, rfl⟩ := Prod.mk.inj heq
+    -- y = some val; hx depends on val : Option (...)
+    dsimp only [] at hx
+    -- Case split on val
+    rcases val with _ | ⟨a⟩
+    · -- val = none: contradicts hval (same as Part 1)
```
Comment (alexanderlhicks) [inline ArkLib/ProofSystem/Component/SendClaim.lean]: this blocks seems like a repetition of the one above (line 173 and down), perhaps it's worth putting this into a have?

File: ArkLib/ProofSystem/Component/SendClaim.lean [hunk 2]
```diff
@@ -107,9 +107,149 @@ it also holds in the ideal setting, etc.
...
+    · -- val = some a: getM succeeds, derive event
+      simp only [Option.getM, pure_bind] at hx
+      erw [simulateQ_pure] at hx
+      simp only [StateT.run_pure, support_pure, Set.mem_singleton_iff, Prod.mk.injEq,
+        Option.some.injEq] at hx
+      -- hx is now conjunction: xval = concrete ∧ s' = s₀
+      obtain ⟨rfl, -⟩ := hx
+      -- xval (= x) is now concrete but still contains a
+      -- Peel hval to determine a (same layers as none case)
+      simp only [bind_pure_comp] at hval
```
Comment (alexanderlhicks) [inline ArkLib/ProofSystem/Component/SendClaim.lean]: This also seems to repeat the same block of steps as from line 216 and 173.

File: ArkLib/ProofSystem/Component/SendClaim.lean [hunk 3]
```diff
@@ -107,9 +107,149 @@ it also holds in the ideal setting, etc.
 instance : ProverOnly (pSpec OStatement) where
   prover_first' := by simp
 
+/-- Bridge lemma: `none` is never in the support of a computation that maps through `some`.
+This is the key missing piece for SendClaim completeness: every layer of `liftM`/`simulateQ`
+preserves the `some <$> _` structure, so `none` can never appear in the output support.
+TODO: upstream to VCVio as a general `support_simulateQ` or `none_not_mem_support_map_some`. -/
+private lemma none_not_mem_support_map_some {m : Type _ → Type _}
```
Comment (alexanderlhicks) [inline ArkLib/ProofSystem/Component/SendClaim.lean]: this doesn't seem like it's used anywhere?

File: ArkLib/ProofSystem/Component/SendClaim.lean [hunk 4]
```diff
@@ -107,9 +107,149 @@ it also holds in the ideal setting, etc.
...
+    [Monad m] [LawfulMonad m] [HasEvalSet m]
+    {α : Type _} (mx : m α) :
+    none ∉ support (Option.some <$> mx : m (Option α)) := by
+  rw [support_map]; rintro ⟨_, _, ⟨⟩⟩
+
+
+set_option synthInstance.maxHeartbeats 800000 in
```
Comment (alexanderlhicks) [inline ArkLib/ProofSystem/Component/SendClaim.lean:130]: why are these maxheartbeat/maxrecdepth values so high here?
I locally replaced the remaining  simp at hval steps (lines 185, 225, 242) with simp only calls and this seems to remove the need for these (amongst other benefits).

**Comment by XC0R** [comment]
Commentary heeded —

**Repeated blocks (216, 235):** Compressed to 3 lines each. Attempted `have` extraction but Lean 4 hygiene renames `hval` → `hval✝` after `rcases`, blocking shared reference. Open to suggestions if you have a pattern that works around this.

**Unused lemma (114):** Removed. Leftover from earlier approach — `simp` handles the contradiction via `support_map` + constructor discrimination.

**High limits (121):** Both `maxHeartbeats 1600000` and `maxRecDepth 2000` removed, builds within defaults. `synthInstance.maxHeartbeats 800000` retained for elaboration. Cleaned unused simp args the linter flagged.

**Comment by XC0R** [comment]
Address repeated-block feedback: extract `peel_simulateQ at h` tactic. The 4-line `simulateQ` decomposition that appeared 3× is now defined once as a local `elab` tactic. Net -4 lines.

**Comment by quangvdao** [comment]
@xc0r One question before approval:

The proof introduces `hIn : (⟨stmt, oStmt⟩, wit) ∈ relIn` via `intro` but never uses it in the body. `Reduction.perfectCompleteness_eq_prob_one` (`ArkLib/OracleReduction/Security/Basic.lean:159-166`) only obligates `Pr[...] = 1` when the input is in `relIn`, so a proof that doesn't use that hypothesis is sound only if completeness here is genuinely unconditional on `relIn`.

Could you either (a) add a one-line comment explaining why `hIn` is unused (e.g. "the unfolded computation never depends on `relComp` failing under the intended chain"), or (b) wire `hIn` into the `relComp` step where it's needed? Either is fine; just want the proof to make its dependence on `relIn` explicit.

The `peel_simulateQ` tactic and the response to earlier review feedback look good. Once this is clarified, happy to approve.

[Posted by Cursor assistant (model: Opus 4.7) on behalf of @quangvdao with approval.]

**Comment by XC0R** [comment]
Commentary heeded. Unused `hIn` replaced with `_`, comment added explaining SendClaim completeness is unconditional on `relIn`.

**Review by quangvdao — APPROVED** [review]
Approving — `hIn` concern cleanly addressed with `_` + explanatory comment. The `peel_simulateQ` tactic and the responsiveness to earlier review feedback are appreciated. Thanks!

[Approval posted by Cursor assistant (model: Opus 4.7) on behalf of @quangvdao with approval.]
